US06107301
2-(N-(2-bromo-4-(2-propyl)phenyl)-N-ethylamino)-4-(morpholinomethyl)-6-methylpyrimidine
To a solution of 2-(N-(2-bromo-4-(2-propyl)phenyl)-N-ethylamino)-6-methylpyrimidine-4-carboxylic acid, morpholine amide (750 mg, 1.72 mmol) in anhydrous tetrahydrofuran (1.4 mL) at ambient temperature under a nitrogen atmosphere was added a solution of borane in tetrahydrofuran (1M, 3.6 mL, 3.6 mmol) dropwise and the reaction mixture was heated at reflux temperature for 20 h. After cooling to room, acetic acid (3.5 mL) was slowly added and the mixture was heated at reflux for 30 min. After being cooled to ambient temperature, the reaction mixture was poured into a 3N NaOH solution and extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. Column chromatography (ethyl acetate) afforded the title compound as an oil (300 mg, 39% yield, Rf 0.3): NMR (CDCl3, 300 MHz) 7.5 (s, 1H), 7.2 (d, 1H, J=7), 7.15 (d, 1H, J=7), 6.5 (s, 1H), 4.3-4.1 (m, 1H), 3.8-3.6 (m, 7H), 3.5-3.3 (m, 2H), 2.9 (septet, 1H, J=7), 1.2 (t, 3H, J=7); CI-HRMS: calcd: 433.1603 (M+H), found: 433.1586.

reactant | 2-(N-(2-bromo-4-(2-propyl)phenyl)-N-ethylamino)-6-methylpyrimidine-4-carboxylic acid | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)C(=O)O)C | C17H20BrN3O2
reactant | morpholine amide | 1.72 mmol, 750 mg | N1(CCOCC1)C(=O)N | C5H10N2O2
reactant | borane | B | BH3
reactant | NaOH | 3N | [OH-].[Na+]
solvent | tetrahydrofuran | 1.4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.6 mmol, 1M, 3.6 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
product | 2-(N-(2-bromo-4-(2-propyl)phenyl)-N-ethylamino)-4-(morpholinomethyl)-6-methylpyrimidine | 300 mg, 39% yield | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)CN1CCOCC1)C | C21H29BrN4O
